US04804394
A mixture of ethanol (15 ml), acetic acid (1 g), water (25 ml) and iron (3 g) is stirred at 80° C., and 4-cyanomethyl-6-nitro-2H-1,4-benzoxazin-3(4H)-one (2.33 g) is added portionwise thereto. The whole is stirred at 80° C. until gas evolution ceases. The reaction mixture is mixed with active carbon (1 g) and ethanol (20 ml), refluxed for 15 minutes, and filtered. The filtrate is poured into chilled water. The deposited crystals are collected by filtration, and dried to obtain 6-amino-4-cyanomethyl-2H-1,4-benzoxazin-3(4H)-one (1.51 g).

reactant | acetic acid | 1 g | C(C)(=O)O | C2H4O2
reactant | water | 25 ml | O | H2O
reactant | 4-cyanomethyl-6-nitro-2H-1,4-benzoxazin-3(4H)-one | 2.33 g | C(#N)CN1C(COC2=C1C=C(C=C2)[N+](=O)[O-])=O | C10H7N3O4
catalyst | iron | 3 g | [Fe] | Fe
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 6-amino-4-cyanomethyl-2H-1,4-benzoxazin-3(4H)-one | 1.51 g | NC=1C=CC2=C(N(C(CO2)=O)CC#N)C1 | C10H9N3O2
